US09428509B2
6-(2-Chloro-4-cyclopropoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole
6-(2,4-Dichloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole (1 equiv), cyclopropanol (2 equiv), sodium tert-butoxide (2 equiv), 1,4-dioxane (0.03 M) were combined and stirred at 25° C. The reaction mixture was loaded directly onto a silica gel column and purified using flash chromatography (0-50% ethyl acetate in hexane) column, to give the title compound (80% yield) as clear oil. MS (ESI) m/z 471.5 [M+1]+.

reactant | 6-(2,4-Dichloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)Cl | C20H22Cl2N4O2Si
reactant | cyclopropanol | 2 equiv | C1(CC1)O | C3H6O
reactant | sodium tert-butoxide | 2 equiv | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 0.03 M | O1CCOCC1 | C4H8O2
product | 6-(2-Chloro-4-cyclopropoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole | 80% yield | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)OC2CC2 | C23H27ClN4O3Si
